US07714126B2
Solution of 5-chloro-2-phenyl-oxazole-4-carboxylic acid ethyl ester (92 mg, 0.37 mmol) in a mixture solution of tetrahydrofuran, methanol and water (3:1:1, 5 mL) was treated with lithium hydroxide monohydride (44 mg, 1.1 mmol) at room temperature for two hours. After the reaction was complete, solvent was evaporated. To the residue, water was added, and pH value of the aqueous layer was adjusted to ˜1-2 by addition of dilute hydrochloride acid (1N). The white precipitation was collected by centrifugation to give 5-chloro-2-phenyl-oxazole-4-carboxylic acid (73 mg, 88%). LCMS calcd for C10H6ClNO3 (m/e) 223, obsd 224 (M+H).

reactant | 5-chloro-2-phenyl-oxazole-4-carboxylic acid ethyl ester | 0.37 mmol, 92 mg | C(C)OC(=O)C=1N=C(OC1Cl)C1=CC=CC=C1 | C12H10ClNO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
reactant | lithium hydroxide monohydride | 1.1 mmol, 44 mg | [H-].[OH-].[Li+]
solvent | water | 5 mL | O | H2O
product | 5-chloro-2-phenyl-oxazole-4-carboxylic acid | 73 mg, 88% | ClC1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C10H6ClNO3
